US05597832
3c. trans-3-(1,2,3,4-tetrahydro-6,7-dimethoxy-2-nitronaphthalene-1-yl)-5-ethyl -2-thiophenecarboxylic acid, N-t-butylamide
To a solution of 5.4 g (25.5 mmol) of 5-ethyl-2-thiophenecarboxylic acid, N-t-butyl amide, from step 3b above, in 80 mL of THF cooled to -78° C. was added 20.4 mL (51.1 mmol) of n-butyllithium (2.5M in hexane). The solution was then stirred at 0° for 40 min, then re-cooled to -78° C., and a solution of 6.0 g of 1,2-dihydro-6,7-dimethoxy-3-nitronaphthalene, from Example 1 b above, in 100 mL of THF cooled to -78° C. was added via cannula. The solution was stirred at -78° C. for 1 hour and at 0° C. for 1 hour. The reaction was quenched with saturated NH4Cl, diluted with water, and extracted with methylene chloride. The extract was washed with brine, dried and concentrated. The residue was dissolved in 30 mL of acetonitrile, 1 mL of triethylamine was added, and the reaction was stirred for 16 hours. The solvent was evaporated, and the residue was purified by flash chromatography, eluting with 6:1 hexane:ethyl acetate to afford 5.7 g of the title product. MS 447 (M+H)+, 464 (M+NH4)+. NMR (CDCl3), δ:6.48 (s, 1H), 6.37 (s, 1H), 6.30 (s, 1H), 5.70 (bs, 1H, 5.47 (d, 1H, J=8 Hz), 5.05 (m, 1H), 3.85 (s, 3H) 3.69 (s, 3H), 3.2-2.88 (m, 2H), 2.72 (q, 2H, J=7 Hz), 2.5-2.35 (m, 2H), 1.42 (s, 3H), 1.23 (t, 3H, J=7 Hz).

reactant | 5-ethyl-2-thiophenecarboxylic acid, N-t-butyl amide | 25.5 mmol, 5.4 g | C(C)(C)(C)NC(=O)C=1SC(=CC1)CC | C11H17NOS
reactant | n-butyllithium | 51.1 mmol, 2.5M, 20.4 mL | C(CCC)[Li]
reactant | 1,2-dihydro-6,7-dimethoxy-3-nitronaphthalene | 6.0 g | COC=1C=C2C=C(CCC2=CC1OC)[N+](=O)[O-] | C12H13NO4
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | trans-3-(1,2,3,4-tetrahydro-6,7-dimethoxy-2-nitronaphthalene-1-yl)-5-ethyl -2-thiophenecarboxylic acid, N-t-butylamide | 5.7 g | C(C)(C)(C)NC(=O)C=1SC(=CC1[C@H]1[C@@H](CCC2=CC(=C(C=C12)OC)OC)[N+](=O)[O-])CC | C23H30N2O5S
